US06265575B1
Part A. Methyl 4-[(1-Pyrrolidinyl)methyl]benzoate
A solution of 6.20 mL (44.5 mmol) of TEA and 4.70 g (21.8 mmol) of 4-carboxybenzyl bromide in 50 mL of DMF was treated with 2.10 mL (25.2 mmol) of pyrrolidine at 50° C. for 3 h. The reaction mixture was cooled, evaporated in vacuo, and the residue was taken up in 50 mL of MeOH. The solution was treated with a rapid stream of HCl (g) for 15 min, the reaction vessel was sealed and the reaction stirred at ambient temperature for 16 h. Evaporation of the solvent afforded 2.56 g of an oil which was purified by radial chromatography (SiO2; 80:18:2 hexanes-THF-TEA) to afford 2.30 g (10.5 mmol; 48%) of the title compound as an oil.

reactant | 4-carboxybenzyl bromide | 21.8 mmol, 4.70 g | C(=O)(O)C1=CC=C(CBr)C=C1 | C8H7BrO2
reactant | pyrrolidine | 25.2 mmol, 2.10 mL | N1CCCC1 | C4H9N
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Methyl 4-[(1-Pyrrolidinyl)methyl]benzoate | 2.56 g | N1(CCCC1)CC1=CC=C(C(=O)OC)C=C1 | C13H17NO2
